US06638926B2
Method H(i). To a mixture of [2-(4-bromo-phenyl)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine (196 mg, 0.51 mmol) and phenylboronic acid (75 mg, 0.62 mmol) in THF/water (1/1, 4 mL) is added Na2CO3 (219 mg, 2.06 mmol), triphenylphosphine (9 mg, 1/15 mol %) and palladium acetate (1 mg, 1/135 mol %). The mixture is heated at 80° C. overnight, the solvents are evaporated and the residue is purified by flash chromatography (gradient of CH2Cl2/MeOH) to give (2-biphenyl-4-yl-quinazolin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine as a yellow solid (99 mg/51%):1H NMR (DMSO) δ2.37 (3H, s), 6.82 (1H, s), 7.39-7.57 (4H, m), 7.73-7.87 (6H, m), 8.57 (2H, d), 8.67 (1H, d), 10.42 (1H, s), 12.27 (1H, s); MS 378.2 (M+H)+.

reactant | [2-(4-bromo-phenyl)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 0.51 mmol, 196 mg | BrC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C | C18H14BrN5
reactant | phenylboronic acid | 0.62 mmol, 75 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2.06 mmol, 219 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | 9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF water | 4 mL | C1CCOC1.O
catalyst | palladium acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2-biphenyl-4-yl-quinazolin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine | C1(=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C)C1=CC=CC=C1 | C24H19N5
